US08232278B2
Synthesis of 2-(p-tolylamino)-4-[(N-3-methylphenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxy-phenyl)-pyrido[3,2-d]pyrimidine
A white suspension of 2-chloro-4-[(N-3-methyl-phenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine (104 mg, 0.2 mmole), K2CO3 (64 mg, 0.46 mmole), and p-toluidine (46 mg, 0.43 mmole) in a mixture of 1,4-dioxane/t-BuOH 5:1 (2 ml) was stirred at room temperature under nitrogen for 5 minutes. Thereafter, tetrakis(triphenylphosphine)palladium(0) (26 mg, 23 μmole) was added and the reaction mixture was heated at reflux under a N2 atmosphere for 48 hours. Upon cooling, the mixture was diluted with water and extracted three times with ethyl acetate (brine added). The combined organic extracts were dried over Na2SO4, filtered and evaporated under reduced pressure. The crude residue was purified by column chromatography on silica using an ethyl acetate/n-hexane mixture as the mobile phase (in a ratio gradually ranging from 1:1 to 3:1), resulting in the pure title compound (30 mg, yield 25%) which was characterized by its mass spectrum as follows: MS (m/z): 590 ([M+H]+, 100).

reactant | 2-chloro-4-[(N-3-methyl-phenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 0.2 mmole, 104 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)N2C(CNCC2)C(NC2=CC(=CC=C2)C)=O | C27H27ClN6O3
reactant | K2CO3 | 0.46 mmole, 64 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | p-toluidine | 0.43 mmole, 46 mg | NC1=CC=C(C=C1)C | C7H9N
solvent | 1,4-dioxane t-BuOH | 2 ml | O1CCOCC1.CC(C)(C)O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 23 μmole, 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(p-tolylamino)-4-[(N-3-methylphenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxy-phenyl)-pyrido[3,2-d]pyrimidine | 30 mg, yield 25% | C1(=CC=C(C=C1)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)N2C(CNCC2)C(NC2=CC(=CC=C2)C)=O)C | C34H35N7O3
